US05053432
Ethyl 4-trifluoromethylbenzoate (4.9 g) was dissolved in ethanol (60 ml) and catalyst (5% rhodium on alumina, 0.5 g) added. Reduction with hydrogen gas was effected at ambient temperature at 50 atmospheres pressure until the theoretical quantity of hydrogen had been absorbed. The catalyst was removed by filtration through "hyflo" filter aid and the solvent was removed by evaporation to provide crude ethyl 4-trifluoromethylcyclohexane-1-carboxylate.

reactant | Ethyl 4-trifluoromethylbenzoate | 4.9 g | FC(C1=CC=C(C(=O)OCC)C=C1)(F)F | C10H9F3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | rhodium on alumina | [Rh] | Rh
product | ethyl 4-trifluoromethylcyclohexane-1-carboxylate | FC(C1CCC(CC1)C(=O)OCC)(F)F | C10H15F3O2
